US06022822
(5) Synthesis of tricyclohexyl [o-(1-azidoethyl)phenyl]tin
997 mg of tricyclohexyl [o-(1-hydroxyethyl)phenyl]tin (2.04 mmol) and 20 ml of pyridine were mixed together in a 20 ml two-neck flask, then 269 mg of methane sulfonyl chloride (2.35 mmol) was added dropwise thereto. After the mixture was stirred for 22 hours at a room temperature, a brown-colored solid, which had been obtained by concentrating the reaction solution under reduced pressure, was dissolved in 10 ml of dimethylformamide. Subsequently, 10 ml of a dimethylformamide solution containing 354 mg of sodium azide (5.44 mmol) was added dropwise, and the mixture was then refluxed for 3 hours. After the mixture was cooled to 0° C., and 20 ml of water was added, the organic substance was extracted with 30 ml of ether three times. After the ether layer was washed with 30 ml of a saturated brine, and dried over sodium sulfate, the solvent was removed under reduced pressure to yield a crude product. The resultant crude product was purified by column chromatography on silica gel (for which, 50 g of silica gel, and hexane, as a devleoping solvent were employed) to yield 288 mg of the final product (0.559 mmol).

reactant | tricyclohexyl [o-(1-hydroxyethyl)phenyl]tin | 2.04 mmol, 997 mg | C1(CCCCC1)[Sn](C1=C(C=CC=C1)C(C)O)(C1CCCCC1)C1CCCCC1
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
reactant | methane sulfonyl chloride | 2.35 mmol, 269 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium azide | 5.44 mmol, 354 mg | [N-]=[N+]=[N-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | tricyclohexyl [o-(1-azidoethyl)phenyl]tin | 0.559 mmol, 288 mg | C1(CCCCC1)[Sn](C1=C(C=CC=C1)C(C)N=[N+]=[N-])(C1CCCCC1)C1CCCCC1 | InChI=1S/C8H8N3.3C6H11.Sn/c1-7(10-11-9)8-5-3-2-4-6-8;3*1-2-4-6-5-3-1;/h2-5,7H,1H3;3*1H,2-6H2;
